US04562197
(2) 2-Acetoxymethyl-4-methoxypyridine
To 2-methyl-4-methoxypyridine-N-oxide (23 g, 0.165 mole) in a 1 liter wide necked flask fitted with a large condenser was added ice-cool acetic anhydride (35 ml, 0.37 mole) with stirring. The mixture was allowed to warm to room temperature whereupon a vigorous exothermic reaction occurred. The dark mixture was stirred for 1 hour before evaporating the excess acetic anhydride and distilling the residue to give the title compound (23.26 g, 78%), b.p. 125° C. at 0.1 mm mercury.

reactant | 2-methyl-4-methoxypyridine-N-oxide | 0.165 mole, 23 g | CC1=[N+](C=CC(=C1)OC)[O-] | C7H9NO2
reactant | acetic anhydride | 0.37 mole, 35 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 2-Acetoxymethyl-4-methoxypyridine | 23.26 g, 78% | C(C)(=O)OCC1=NC=CC(=C1)OC | C9H11NO3
